US08258141B2
J7: N-{(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide
N-[(1S,2R,3S,4R)-4-(2,6-Dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide (160 mg, 0.44 mmol) is dissolved in THF (5 ml) under an atmosphere of argon. Diisopropylamine (69 mg, 0.53 mmol) is added followed by 2,2-diphenylethylamine (96 mg, 0.49 mmol) and the reaction mixture is stirred at 50° C. The reaction is shown to be complete by LCMS after 2 hours. The solvent is removed in vacuo and the title compound is obtained after purification by reverse phase column chromatography (Isolute™ C18, 0-100% acetonitrile in water—0.1% TFA). 1H nmr (MeOD, 400 MHz); 8.00 (s, 1H), 7.40-7.15 (m, 10H), 4.75 (m, 1H), 4.60 (m, 1H), 4.50 (m, 1H), 4.20 (m, 3H), 3.95 (m, 1H), 2.85 (m, 1H), 2.40 (q, 2H), 2.10 (m, 1H), 1.20 (t, 3H), MS (ES+) m/e 521 (MH+).

reactant | N-[(1S,2R,3S,4R)-4-(2,6-Dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide | 0.44 mmol, 160 mg | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)Cl | C13H15Cl2N5O3
reactant | Diisopropylamine | 0.53 mmol, 69 mg | C(C)(C)NC(C)C | C6H15N
reactant | 2,2-diphenylethylamine | 0.49 mmol, 96 mg | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-{(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29ClN6O3
